US08133909B2
N-(3,4-Dimethyl-phenyl)-2-(2-methyl-benzoimidazol-1-yl)-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide
A suspension of 2-bromo-N-(3,4-dimethyl-phenyl)-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide (134 mg, 0.32 mmol), 2-methylbenzimidazole (85 mg, 0.65 mmol) and potassium carbonate (67 mg, 0.48 mmol) in acetonitrile (1 mL) was irradiated in the microwave for 20 min. at 140° C. The reaction mixture was diluted with TBME (15 mL) and washed with water (15 mL) and brine (15 mL). The aqueous layers were extracted with tert-butylmethylether (15 mL) and the combined organic layers dried over sodium sulfate. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate:methanol=50:50:0 to 0:95:5) afforded the title compound (86 mg, 57%) as a light brown oil. MS m/e: 467.0 [M+H]+.

reactant | 2-bromo-N-(3,4-dimethyl-phenyl)-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide | 0.32 mmol, 134 mg | BrCC(=O)N(CCC=1C=NC(=CC1)C(F)(F)F)C1=CC(=C(C=C1)C)C | C18H18BrF3N2O
reactant | 2-methylbenzimidazole | 0.65 mmol, 85 mg | CC=1NC2=C(N1)C=CC=C2 | C8H8N2
reactant | potassium carbonate | 0.48 mmol, 67 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | TBME | 15 mL | CC(C)(C)OC | C5H12O
product | N-(3,4-Dimethyl-phenyl)-2-(2-methyl-benzoimidazol-1-yl)-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide | 86 mg, 57% | CC=1C=C(C=CC1C)N(C(CN1C(=NC2=C1C=CC=C2)C)=O)CCC=2C=NC(=CC2)C(F)(F)F | C26H25F3N4O
